US08003800B2
To a solution of rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-propan-1-one (545 mg, 1.31 mmol) in DCM (27 mL), DIPEA (270 mg, 2.09 mmol) is added. The mixture is cooled to 0° C. before methanesulfonylchloride (180 mg, 1.51 mmol) is added. Stirring is continued at 0° C. for 1 h. The mixute is diluted with DCM, washed with water, dried over MgSO4, filtered and concentrated. The crude product is purified by chromatography on prep. TLC plates with DCM containing 4% of MeOH to give N-(2-hydroxy-3-{4-[3-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-3-oxo-propyl]-2,6-dimethyl-phenoxy}-propyl)-methanesulfonamide (545 mg) as a yellow oil; LC-MS: tR=1.06 min, [M+1]=496.24.

reactant | rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-propan-1-one | 1.31 mmol, 545 mg | NCC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1C)CC(C)C)C)C)O | C24H35NO3S
reactant | DIPEA | 2.09 mmol, 270 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonylchloride | 1.51 mmol, 180 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 27 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxy-3-{4-[3-(4-isobutyl-3,5-dimethyl-thiophen-2-yl)-3-oxo-propyl]-2,6-dimethyl-phenoxy}-propyl)-methanesulfonamide | 545 mg | OC(CNS(=O)(=O)C)COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1C)CC(C)C)C)C | C25H37NO5S2
